US04603145
Ethyl 3,3-bis(p-chlorophenyl)propionate
Prepared in a similar manner from 3,3-bis(p-chlorophenyl)acrylic acid was 3,3-bis(p-chlorophenyl)propionic acid, m.p. 190°-193° C.

reactant | 3,3-bis(p-chlorophenyl)acrylic acid | ClC1=CC=C(C=C1)C(=CC(=O)O)C1=CC=C(C=C1)Cl | C15H10Cl2O2
reactant | 3,3-bis(p-chlorophenyl)propionic acid | ClC1=CC=C(C=C1)C(CC(=O)O)C1=CC=C(C=C1)Cl | C15H12Cl2O2
product | Ethyl 3,3-bis(p-chlorophenyl)propionate | ClC1=CC=C(C=C1)C(CC(=O)OCC)C1=CC=C(C=C1)Cl | C17H16Cl2O2
